US04786637
E-6-(1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxo-5-isobenzofuranyl)-4-methyl-4-hexenoic acid (mycophenolic acid) (32.0 g) was dissolved in dichloromethane (250 ml), followed by the addition of thionyl chloride (25.0 ml) and dimethylformamide (0.3 ml). The reaction mixture was stirred at room temperature for 3 hours, after which the volatile components were removed under vacuum to afford E-6-(1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxo-5-isobenzofuranyl)-4-methyl-4-hexenoic acid chloride as an oil.

reactant | E-6-(1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxo-5-isobenzofuranyl)-4-methyl-4-hexenoic acid | 32.0 g | OC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)O)\C)OC)C)=O | C17H20O6
reactant | thionyl chloride | 25.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 0.3 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | E-6-(1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxo-5-isobenzofuranyl)-4-methyl-4-hexenoic acid chloride | OC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)Cl)\C)OC)C)=O | C17H19ClO5
